* OVERALL BEST CANDIDATE: 00_Phase_2_3_3V_to_24V_Solenoid_Boost_g1_cand2_b2
* FITNESS SCORE: 0.7625
*
* Generated: 2026-06-01T00:48:19
* Constraint: Phase 2: 3.3V to 24V Solenoid (Boost)
*   vin_min = 3.0
*   vin_max = 3.6
*   vout_target = 24
*   efficiency_target = 0.85
*   power_in = 60
* Candidate: 2 of 8
* Grouped name: g1_cand2
*
* 3V to 24V Boost, D=1-3/24=875m, t_on=8.75u
Vin in 0 3
L1 in sw 22u
M1 sw gate 0 0 NMOS W=1 L=1
D1 sw out DIODE
C1 out 0 100u
Rload out 0 6
Vgate gate 0 PULSE(0 12 0 1n 1n 8.75u 10u)
.model NMOS NMOS(Vto=1 Kp=2 Lambda=0)
.model DIODE D
.tran 1u 10m
.save V(*) I(*)
.end
