* === GLOBAL BEST TOPOLOGY ===
* Candidate: cand_2
* Fitness: 0.7373
*
* --- Active Constraints ---
* _comment: Phase 2: 3.3V to 24V Solenoid (Boost)
* vin_min: 3.0
* vin_max: 3.6
* vout_target: 24
* efficiency_target: 0.85
* power_in: 60
*
* --- Raw Metrics & Components ---
* simulation_output_voltage: 16.271513
* efficiency: 0.527546
* total_volume_cm3: 82.336007
* total_components: 4
* ============================

* 3V to 24V Boost, D=1-3/24=875m, t_on=8.75u
Vin in 0 3
L1 in sw 22u
M1 sw gate 0 0 NMOS W=1 L=1
D1 sw out DIODE
C1 out 0 100u
Rload out 0 6
Vgate gate 0 PULSE(0 12 0 1n 1n 8.75u 10u)
.model NMOS NMOS(Vto=1 Kp=2 Lambda=0)
.model DIODE D
.tran 10n 1m
.save V(*) I(*)
.end